US06329370B1
4-Bromo-1-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazine
A suspension of 4-(3,5-dichloro-pyridin-4-ylmethyl)-7-methoxy-2H-phthalazin-1-one (10 g, 25.5 mmoles), prepared as described in example 38, in acetonitrile (300 ml), was added with POBr3 (22 g, 76.5 mmoles) and the mixture was refluxed. After 1 night under reflux and another to stand, the solution was concentrated, taken up in water, cooled in ice and alkalinised with concentrated NaOH. There was extracted three times with CH2Cl2 and the organic phases were discoloured with charcoal, anhydrified and concentrated. The crude was purified by flash chromatography (eluent: petrolatum/ethyl acetate 8:2, then 6:4) to give 8.4 g of the title compound (yield: 82%).

reactant | 4-(3,5-dichloro-pyridin-4-ylmethyl)-7-methoxy-2H-phthalazin-1-one | 25.5 mmoles, 10 g | ClC=1C=NC=C(C1CC1=NNC(C2=CC(=CC=C12)OC)=O)Cl | C15H11Cl2N3O2
reactant | POBr3 | 76.5 mmoles, 22 g | P(=O)(Br)(Br)Br | Br3OP
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 4-Bromo-1-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazine | 8.4 g, yield: 82% | BrC1=NN=C(C2=CC=C(C=C12)OC)CC1=C(C=NC=C1Cl)Cl | C15H10BrCl2N3O
